US05286737
Preparation of 2-(2,4-Difluorobenzyl) cyclopentanone
To a stirred solution of glacial acetic acid (100 ml) and an aqueous solution of sulfuric acid (12.5%, 30 ml), there was added methyl 1-(2,4-difluorobenzyl)-2-oxocyclopentanecarboxylate (5.14 g, 21.6 mmol). The mixture was refluxed in a stream of argon for 5 h.

reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 1-(2,4-difluorobenzyl)-2-oxocyclopentanecarboxylate | 21.6 mmol, 5.14 g | FC1=C(CC2(C(CCC2)=O)C(=O)OC)C=CC(=C1)F | C14H14F2O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-(2,4-Difluorobenzyl) cyclopentanone | FC1=C(CC2C(CCC2)=O)C=CC(=C1)F | C12H12F2O
